Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]=[C:2]([O:3][H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3][H:4].[C:5](#[C:6][H:7])[C:8]([H:9])([H:10])[H:11],0.36571695844
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][C:4]([H:5])[H:6],3.2840601528400004
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:10]([O:9][C:7][H:8])[H:11]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@:7]1([H:8])[O:9][C:10]1[H:11],-1.49700370874
[H:1][C:2]([H:3])/[C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])=[C:10](/[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5](=[C:7]([H:8])[H:9])=[C:10]([H:11])[C:12]([H:13])[H:14].[H:1][C:2]([H:3])([C:4][H:6])[H:15],4.66469391683
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8][H:9]>>[C:1]#[C:2].[C:3]([H:4])[O:5][C:6]([H:7])=[C:8][H:9],6.98023334923
[H:1][C:2]([O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],3.67190378625
[H:12].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],-1.84068070621
[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8],-3.68087870527
[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][H:7],8.159307387410001
[C:3]#[C:4][H:5].[H:1][C:2]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-5.56603255053
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1][C:2]#[C:3][H:4],4.14883957666
[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11](/[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:2](\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11](\[H:12])[C:13][H:14].[H:1][C:3]([H:15])[H:16],4.6092409243
[H:1][C:2][C:3][C:4]#[C:5][C:6][H:7].[O:8][H:9]>>[H:1][C:2]#[C:3][C:4]([C:5]#[C:6][H:7])[O:8][H:9],-5.83130843444
[C:6]([H:7])([H:8])[H:9].[H:1][C:2]([H:3])([H:4])[C:5][C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19]>>[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19],-4.464634209730001
[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[O:6]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-4.11964847737
[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:1](=[C:2]([H:3])/[C:5]([H:6])=[C:9]/[C:10]([H:11])([H:12])[H:13])([H:4])[H:8].[C:7],1.00046568627
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10][H:11],5.14927418007
[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-8.4648549838
[C:1][C:2][O:3].[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.28612730641
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[H:10].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:11][C:12]([H:13])[H:14],3.860616550930002
[H:6].[O:1][O:2][C:3]([H:4])[C:5]#[C:7][C:8]([H:9])[H:10]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10],-3.34012608716
[H:1][C:2]=[C:3]([C:4]#[C:5][H:6])[O:7][O:8][H:9]>>[C:4]#[C:5][H:6].[H:1][C:2]#[C:3][O:7][O:8][H:9],3.3189096782200003
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[H:7]>>[C:2]([H:3])[C:4]([H:5])([H:6])[H:7].[O:1],8.32566112
[H:1][C:2]=[C:3]([O:4][H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4][H:5],-0.7400578179899999
[C:4](=[C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.090507862
[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1].[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],5.28414264654
[C:5]([H:6])(=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]#[C:4]>>[H:1][O:2][C:3]#[C:4][C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.4200083017
[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.90562033165
